US04119729
A mixture of 4-(methylsulfonyl)-m-cresol (18.6 g., 0.1 mole), epichlorohydrin (60 g., 0.65 mole) and 0.6 g. of pyrrolidine is heated on steam bath for 12 hr. Excess epichlorohydrin is removed under reduced pressure, the resulting chlorohydrin derivative taken up in 50 ml. of absolute ethanol and filtered through diatomaceous earth. Isopropylamine (50 g., 0.85 mole) and 0.1 g. of potassium iodide are added to the ethanol filtrate of the epichlorohydrin derivative and the mixture is refluxed for 18 hr. and filtered. Concentration of the filtrate under reduced pressure affords a residue which is taken up in 70 ml. of 1N hydrochloric acid and 300 ml. of absolute ethanol. Distillables are removed under reduced pressure and the resulting residue stirred with ether to provide solid crude product. Crystallization of the crude product from butanone-methanol and again from 95% ethanol-ether, affords 1-(ISOPROPYLAMINO)-3-[4-(METHYLSULFONYL)-m-TOLYLOXY]-2-PROPANOL HYDROCHLORIDE, m.p. 177.0°-179.0° C. (corr.) in a 62% overall yield. A sample, m.p. 176.0°-178.0° C. (corr), analyzed as follows.

reactant | 4-(methylsulfonyl)-m-cresol | 0.1 mole, 18.6 g | CS(=O)(=O)C=1C(=CC(=CC1)O)C | C8H10O3S
reactant | epichlorohydrin | 0.65 mole, 60 g | C(Cl)C1CO1 | C3H5ClO
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | Isopropylamine | 0.85 mole, 50 g | C(C)(C)N | C3H9N
reactant | potassium iodide | [I-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 1-(ISOPROPYLAMINO)-3-[4-(METHYLSULFONYL)-m-TOLYLOXY]-2-PROPANOL HYDROCHLORIDE | Cl.C(C)(C)NCC(COC=1C=C(C=CC1S(=O)(=O)C)C)O | InChI=1S/C14H23NO4S.ClH/c1-10(2)15-8-12(16)9-19-13-7-11(3)5-6-14(13)20(4,17)18;/h5-7,10,12,15-16H,8-9H2,1-4H3;1H
